US09145427B2
6-Benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine was reacted with methylamine; deprotection afforded N-methyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2-amine.

reactant | 6-Benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine | C(C1=CC=CC=C1)N1CC=2C=CC(=NC2CC1)Cl | C15H15ClN2
reactant | methylamine | CN | CH5N
product | N-methyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2-amine | CNC1=NC=2CCNCC2C=C1 | C9H13N3
